US06077850
Tetramethylethylenediamine (TMEDA)(12.6 mL, 83.5 mmol) was added via syringe to n-BuLi (33 mL of 1.6 M in hexanes, 82.5 mmol) and the solution was chilled to 0° C. A solution of p-thiocresol (4.53 g, 36.5 mmol) in cyclohexane (40 mL) was added with stirring over 5 minutes. The resulting tan slurry was stirred overnight at room temperature, chilled to 0° C., and DMF (4.0 mL, 3.77 g, 51.6 mmol) was added via syringe over 2 minutes. The resulting gummy slurry was stirred at room temperature for 1.3 hours. The reaction mixture was added to 3 N HCl (150 mL). This mixture was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo yielding a brown oil. This oil was purified by flash chromatography over silica gel, eluting with 10% ethyl acetate-hexanes to afford 5-methyl-2-mercaptobenzaldehyde (4.47 g, 69%) as an intensely yellow solid suitable for use without further purification.

reactant | Tetramethylethylenediamine | 83.5 mmol, 12.6 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-BuLi | 82.5 mmol, 1.6 M, 33 mL | [Li]CCCC
reactant | p-thiocresol | 36.5 mmol, 4.53 g | CC1=CC=C(C=C1)S | C7H8S
reactant | DMF | 51.6 mmol, 4.0 mL, 3.77 g | CN(C)C=O | C3H7NO
reactant | HCl | 3 N, 150 mL | Cl | ClH
solvent | cyclohexane | 40 mL | C1CCCCC1 | C6H12
product | 5-methyl-2-mercaptobenzaldehyde | 4.47 g, 69% | CC=1C=CC(=C(C=O)C1)S | C8H8OS
